US07601714B2
5-nitro-N4-({trans-4-[(2,2,2-trifluoroethyl)amino]cyclohexyl}methyl)-N2-[2-(trifluoromethoxy)benzyl]pyrimidine-2,4-diamine
N4-[(trans-4-aminocyclohexyl)methyl]-5-nitro-N2-[2-(trifluoromethoxy)benzyl]pyrimidine-2,4-diamine (200 mg, 0.45 mmol) was suspended in CH3CN (4 mL) and cooled to 0° C. 2,2,2-Trifluoroethyl trichloromethanesulphonate (66 mg, 0.23 mmol) in CH3CN (1 mL) was added dropwise to the reaction mixture and the reaction mixture was heated to 90° C. for 5 h. The reaction mixture was concentrated and the resulting residue was diluted with ethyl acetate. The solution was treated with 1M Na2CO3 and the organic phase was separated. The aqueous phase was re-extracted with CH2Cl2. The combined organic phase was dried over Na2SO4 and concentrated. Silica gel prep TLC using 98:2 CH2Cl2:MeOH, then 7:3 Hexanes:ethyl acetate afforded 74 mg of the title compound, m/z 523.0 [M+1]+.

reactant | N4-[(trans-4-aminocyclohexyl)methyl]-5-nitro-N2-[2-(trifluoromethoxy)benzyl]pyrimidine-2,4-diamine | 0.45 mmol, 200 mg | N[C@@H]1CC[C@H](CC1)CNC1=NC(=NC=C1[N+](=O)[O-])NCC1=C(C=CC=C1)OC(F)(F)F | C19H23F3N6O3
reactant | 2,2,2-Trifluoroethyl trichloromethanesulphonate | 0.23 mmol, 66 mg | ClC(S(=O)(=O)OCC(F)(F)F)(Cl)Cl | C3H2Cl3F3O3S
solvent | CH3CN | 4 mL | CC#N | C2H3N
solvent | CH3CN | 1 mL | CC#N | C2H3N
product | 5-nitro-N4-({trans-4-[(2,2,2-trifluoroethyl)amino]cyclohexyl}methyl)-N2-[2-(trifluoromethoxy)benzyl]pyrimidine-2,4-diamine | 74 mg | [N+](=O)([O-])C=1C(=NC(=NC1)NCC1=C(C=CC=C1)OC(F)(F)F)NC[C@@H]1CC[C@H](CC1)NCC(F)(F)F | C21H24F6N6O3
